US04544400
Following the procedure of Example 4, N-methylcarbonyl 2-nitro-5-fluoroaniline (3.1 g, 15.4 mmol), 4-trifluoromethylphenol (2.5 g, 15.4 mmol) and potassium carbonate (4.3 g, 31.0 mmol) are reacted together to give N-methylcarbonyl 2-nitro-5-(4-trifluoromethylphenoxy)aniline, 4.0 g of which is then reacted with 20% hydrochloric acid (~50 ml) to give 2-nitro-5-(4-trifluoromethylphenoxy)aniline. 2-Nitro-5-(4-trifluoromethylphenoxy)aniline (2.0 g, 6.7 mmol) is reacted with potassium hydroxide (0.4 g, 7.0 mmol) and sodium hypochlorite (19 ml of 5.2% solution, 1.0 g, 13.4 mmol) to yield 5-(4-trifluormethylphenoxy)benzo-2,1,3-oxadiazole N-oxide, m.p. 40°-42°.

reactant | N-methylcarbonyl 2-nitro-5-fluoroaniline | 15.4 mmol, 3.1 g | CC(=O)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H7FN2O3
reactant | 4-trifluoromethylphenol | 15.4 mmol, 2.5 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 31.0 mmol, 4.3 g | C([O-])([O-])=O.[K+].[K+]
product | N-methylcarbonyl 2-nitro-5-(4-trifluoromethylphenoxy)aniline | CC(=O)NC1=C(C=CC(=C1)OC1=CC=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C15H11F3N2O4
